US06680313B2
(1S,5R,6S)-2-[7-(1-Carbamoylmethylpyridinium-2-yl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (intramolecular salt)
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-2-yl)thioimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (42.2 mg) was dissolved in 2 ml of acetone. 2-Iodoacetamide (140 mg) was added to the solution. The mixture was stirred at 40° C. for 4 days. Ethyl acetate (4 ml) was added to the reaction solution, and the resultant precipitate was collected, and was reacted in the same manner as in Example 1c). The reaction product was purified by column chromatography on Cosmosil 40C18-PREP (a 10 to 25% aqueous methanol solution). In this case, the first eluted fraction in two major products was collected to prepare 1.44 mg of the title compound.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-2-yl)thioimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 42.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SC3=NC=CC=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C27H23N5O6S2
reactant | 2-Iodoacetamide | 140 mg | ICC(=O)N | C2H4INO
reactant | Ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | (1S,5R,6S)-2-[7-(1-Carbamoylmethylpyridinium-2-yl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | C(N)(=O)C[N+]1=C(C=CC=C1)SC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C22H21N5O5S2
